US04470988
A solution of 3-amino-1-ethoxycarbonylmethyl-3,4,5,6-tetrahydro-1-benzazocin-2-(1H)-one (8.0 g), acetic acid (0.4 ml), and t-butyl nitrite (4.2 ml) is dissolved in chloroform (150 ml) and the solution is refluxed for 2 hours then cooled to room temperature. m-Chloroperbenzoic acid (5.7 g) is added in portions, and the resulting solution stirred at room temperature for 30 minutes. The solution is washed with saturated aqueous sodium bicarbonate (120 ml), water (75 ml), 2N hydrochloric acid (50 ml), water (50 ml), 2N hydrochloric acid (50 ml), and water (50 ml). The solution is dried over magnesium sulfate and the solvent removed under reduced pressure to give 1-ethoxycarbonylmethyl-tetrahydro-1-benzazocin-2,3(1H)-dione.

reactant | 3-amino-1-ethoxycarbonylmethyl-3,4,5,6-tetrahydro-1-benzazocin-2-(1H)-one | 8.0 g | NC1C(N(C2=C(CCC1)C=CC=C2)CC(=O)OCC)=O | C15H20N2O3
reactant | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
reactant | t-butyl nitrite | 4.2 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | m-Chloroperbenzoic acid | 5.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-ethoxycarbonylmethyl-tetrahydro-1-benzazocin-2,3(1H)-dione | C(C)OC(=O)CN1C(C(CCCC2C1=CC=CC2)=O)=O | C15H19NO4
